US06635657B1
Preparation of 5-Chloro-N-(5-chloropyridin-2-yl)-2-[[1-(tetrahydropyran-4-yl)piperidin-4-ylcarbonyl]amino]benzamide Hydrochloride
Using methods substantially equivalent to those described in example 27, 5-chloro-N-(5-chloropyridin-2-yl)-2-[1-(tetrahydropyran-4-yl)piperidin-4-ylcarbonyl]amino]-benzamide hydrochloride (0.25 g, 56%) was prepared from 5-chloro-N-(5-chloropyridin-2-yl)-2-[(piperidin-4-ylcarbonyl)amino]benzamide trifluoroacetate and tetrahydro-4H-pyran-4-one. The preparative RPHPLC (C18) purification procedure was elution with a linear gradient of 90/10 to 50/50 (0.01% HCl/acetonitrile) over 180 min.

reactant | benzamide hydrochloride | 0.25 g | Cl.C(C1=CC=CC=C1)(=O)N
reactant | 5-chloro-N-(5-chloropyridin-2-yl)-2-[(piperidin-4-ylcarbonyl)amino]benzamide trifluoroacetate | FC(C(=O)O)(F)F.ClC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(=O)C1CCNCC1
reactant | tetrahydro-4H-pyran-4-one | O1CCC(CC1)=O | C5H8O2
product | 5-Chloro-N-(5-chloropyridin-2-yl)-2-[[1-(tetrahydropyran-4-yl)piperidin-4-ylcarbonyl]amino]benzamide Hydrochloride | Cl.ClC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(=O)C1CCN(CC1)C1CCOCC1 | InChI=1S/C23H26Cl2N4O3.ClH/c24-16-1-3-20(19(13-16)23(31)28-21-4-2-17(25)14-26-21)27-22(30)15-5-9-29(10-6-15)18-7-11-32-12-8-18;/h1-4,13-15,18H,5-12H2,(H,27,30)(H,26,28,31);1H
